US09376433B2
To a solution of 4-bromo-nicotinonitrile (1.10 g, 6.00 mmol) in DMF (20 ml) are added bis(triphenylphosphine)-palladium(II)-chloride (211 mg, 0.30 mmol), copper(I) iodide (34 mg, 0.18 mmol), triethylamine (1.66 ml, 12.0 mmol) and 1-bromo-4-ethynyl-benzene (1.19 g, 6.6 mmol). The mixture is flushed with nitrogen, heated to 80° C. and stirred in a closed reaction vial at this temperature for 4 hours. The reaction mixture is allowed to cool to room temperature and partitioned between water and dichloromethane. The organic phase is washed with 1 N HCl, dried over sodium sulfate and evaporated under vacuum. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 4-(4-bromo-phenylethynyl)-nicotinonitrile as light yellow powder; HPLC/MS 2.09 min (B), [M+H] 283/285.

reactant | 4-bromo-nicotinonitrile | 6.00 mmol, 1.10 g | BrC1=CC=NC=C1C#N | C6H3BrN2
reactant | triethylamine | 12.0 mmol, 1.66 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-4-ethynyl-benzene | 6.6 mmol, 1.19 g | BrC1=CC=C(C=C1)C#C | C8H5Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)-palladium(II)-chloride | 0.30 mmol, 211 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.18 mmol, 34 mg | [Cu]I
product | 4-(4-bromo-phenylethynyl)-nicotinonitrile | BrC1=CC=C(C=C1)C#CC1=CC=NC=C1C#N | C14H7BrN2
